US06897231B2
B. N-(3-carbamoylpropyl)[3-(4-fluorophenyl)(1H-indazole-5-yl)]carboxamide
A sealed glass bomb containing methyl 4-{[1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-yl]carbonylamino}butanoate (95 mg, 0.239 mmol) in methanol with saturated ammonia (7 mL) was heated to 80° C. for 18 hours. The reaction mixture was condensed and the resulting solid was purified by HPLC to afford the title compound (35 mg, 43% yield). 1H NMR (DMSO-d6) δ 13.43 (br s, 1H), 8.50 (s, 1H), 8.04 (m, 2H), 7.87 (d, 1H), 7.58 (d, 1H), 7.37 (t, 1H), 7.29 (s, 1H), 6.75 (br s, 1H), 3.75 (m, 2H), 2.09 (t, 2H), 1.73 (t, 2H); ES-MS (m/z) 341[M+1]+.

reactant | methyl 4-{[1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-yl]carbonylamino}butanoate | 0.239 mmol, 95 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)NCCCC(=O)OC)C1=CC=C(C=C1)F | C21H20FN3O4
reactant | ammonia | 7 mL | N | H3N
solvent | methanol | CO | CH4O
product | N-(3-carbamoylpropyl)[3-(4-fluorophenyl)(1H-indazole-5-yl)]carboxamide | 35 mg, 43% yield | C(N)(=O)CCCNC(=O)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C18H17FN4O2
